US06982348B2
To a solution of (4RS,5SR)-5-(3-chlorophenyl)-4-[4-(1,1-difluoro-2,2-dimethylpropyl)benzyl]-1,3-oxazolidin-2-one (3.82 g, 9.70 mmol) in ethanol (100 ml) was added 8N aqueous sodium hydroxide solution (6.1 ml, 48.5 mmol), and the mixture was heated under reflux for 4 hrs. After completion of the reaction, ethanol was evaporated under reduced pressure. The residue was diluted with water, and the mixture was extracted with ethyl acetate. The organic layers were combined, washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by recrystallization (hexane-ethyl acetate) to give (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-[4-(1,1-difluoro-2,2-dimethylpropyl)phenyl]-1-propanol (2.56 g, 72%) to give colorless crystals.

reactant | (4RS,5SR)-5-(3-chlorophenyl)-4-[4-(1,1-difluoro-2,2-dimethylpropyl)benzyl]-1,3-oxazolidin-2-one | 9.70 mmol, 3.82 g | ClC=1C=C(C=CC1)C1C(NC(O1)=O)CC1=CC=C(C=C1)C(C(C)(C)C)(F)F | C21H22ClF2NO2
reactant | sodium hydroxide | 48.5 mmol, 8N, 6.1 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-[4-(1,1-difluoro-2,2-dimethylpropyl)phenyl]-1-propanol | 2.56 g, 72% | NC(C(O)C1=CC(=CC=C1)Cl)CC1=CC=C(C=C1)C(C(C)(C)C)(F)F | C20H24ClF2NO
